US05629321
A solution containing 2.0 g of 4-aminobenzonitrile and 2.7 ml of pyridine in 20 ml of methylene chloride was cooled with ice and 2.8 ml of trifluoroacetic anhydride was dropwise added over 2 minutes. The reaction mixture was stirred for an hour. Thereafter, a saturated aqueous sodium hydrogen carbonate solution was added to the reaction mixture and the reaction mixture was extracted with chloroform. The organic layer was dried with anhydrous magnesium sulfate and concentrated under reduced pressure to give 3.85 g of N-(4-cyanophenyl)-α, α, α-trifluoroacetoamide. The compound obtained was dissolved in 40 ml of 2-butanone, 3.3 g of potassium hydroxide powder and 3.7 ml of methyl iodide were added, and the mixture was refluxed by heating for an hour. After allowing to cool, the solvent was distilled off under reduced pressure to obtain oily substance. The oily substance was suspended in 40 ml of water and stirred at 80° C. for an hour. After allowing to cool, the reaction mixture was filtered with Celite and the filtrate was concentrated under reduced pressure. The crude product obtained was purified by silica gel column chromatography using a mixture, ethyl acetate:n-hexane=1:3, as a developer to give 1.82 g of 4-methylaminobenzonitirile.

reactant | 4-aminobenzonitrile | 2.0 g | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | pyridine | 2.7 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 2.8 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-(4-cyanophenyl)-α, α, α-trifluoroacetoamide | 3.85 g | C(#N)C1=CC=C(C=C1)NC(C(F)(F)F)=O | C9H5F3N2O
